US06933295B2
N-{2-[3-(Aminomethyl)benzyl]-1-oxo-2,3-dihydro-1H-isoindol-4-yl}-5-chloro-2-thiophenecarboxamide
0.21 ml (2.7 mmol) of TFA and 0.07 ml (0.45 mmol) of triethylsilane are added dropwise to a solution of 181 mg (purity 66%, 0.22 mmol) of tert-butyl 3-[(4-{[(5-chloro-2-thienyl)carbonyl]amino}-3-hydroxy-1-oxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzylcarbamate in 4.5 ml of dichloromethane. The solution is stirred at room temperature overnight and then concentrated and dried under high vaccum. The residue is taken up in dichloromethane/methanol and the mixture is washed with 1N sodium hydroxide solution, dried over magnesium sulfate and concentrated. Ether is added to the residue, the mixture is filtered off with suction and the product is dried under high vacuum. Yield: 84 mg (90.7% of theory); MS (DCI, NH3): m/z (%)=412 (M+H, 100); HPLC (Method 2): rt (%)=6.25 (80).

reactant | TFA | 2.7 mmol, 0.21 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 0.45 mmol, 0.07 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | tert-butyl 3-[(4-{[(5-chloro-2-thienyl)carbonyl]amino}-3-hydroxy-1-oxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzylcarbamate | 0.22 mmol, 181 mg | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC=1C=C(CNC(OC(C)(C)C)=O)C=CC1)O | C26H26ClN3O5S
solvent | dichloromethane | 4.5 ml | ClCCl | CH2Cl2
product | N-{2-[3-(Aminomethyl)benzyl]-1-oxo-2,3-dihydro-1H-isoindol-4-yl}-5-chloro-2-thiophenecarboxamide | NCC=1C=C(CN2C(C3=CC=CC(=C3C2)NC(=O)C=2SC(=CC2)Cl)=O)C=CC1 | C21H18ClN3O2S
